US07700637B2
Lithium aluminum hydride (61 mL of a 1.0 M solution in THF) is added to a solution of the title A compound, 5-methyl-2-phenyl-4-(2-p-tolyloxy-ethyl)-oxazole (8.22 g, 24.36 mmol) in THF (200 mL) at 0° C. The mixture is stirred at 0° C. for 5 h, then at RT overnight. The reaction mixture is then cooled in an ice-water bath and quenched with saturated aqueous sodium bicarbonate and concentrated under vacuum to remove some of the THF. The residue is extracted with EtOAc, and the resulting organic phase is washed with brine, dried with magnesium sulfate, and concentrated under vacuum to give {4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-methanol as a white solid.

reactant | Lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-methyl-2-phenyl-4-(2-p-tolyloxy-ethyl)-oxazole | 24.36 mmol, 8.22 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)C | C19H19NO2
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | {4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-methanol | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)CO | C19H19NO3
